US07767677B2
A mixture of 6-oxo-1,6-dihydropyridazine-3-carboxylic acid (0.790 g, 5.000 mmol) and 4-chlorobenzene-1,2-diamine (0.720 g, 5.000 mmol) was added to pre-heated (150° C.) polyphosphoric acid (5 g) with stirring, and the reaction was stirred at 150 C for 2 hours. Water was added to the reaction mixture, and the resulting solution was neutralized with NaHCO3, and extracted with ethyl acetate. The organic phase was dried and evaporated to afford 6-(6-chloro-1H-benzoimidazol-2-yl)-2H-pyridazin-3-one as a dark solid (0.210 g, 0.85 mmol, 17% yield).

reactant | 6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 5.000 mmol, 0.790 g | O=C1C=CC(=NN1)C(=O)O | C5H4N2O3
reactant | 4-chlorobenzene-1,2-diamine | 5.000 mmol, 0.720 g | ClC=1C=C(C(=CC1)N)N | C6H7ClN2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Water | O | H2O
product | 6-(6-chloro-1H-benzoimidazol-2-yl)-2H-pyridazin-3-one | 0.85 mmol, 0.210 g, 17% yield | ClC=1C=CC2=C(NC(=N2)C=2C=CC(NN2)=O)C1 | C11H7ClN4O
